US07820683B2
(2R)-2-[(4-{[1-(3-methoxybenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]-N,N-dimethylpropanamide
Using the same procedure as in Example 18, (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide (220 mg, 0.84 mmol) and 1-(3-methoxybenzyl)-1H-indazol-5-amine (1.1 equivalents) were reacted to give the title compound as a beige foam (242 mg, 58%); NMR spectrum (CDCl3) 1.72 (d, 3H), 3.05 (s, 3H), 3.14 (s, 3H), 3.73 (s, 3H), 5.42 (q, 1H), 5.57 (s, 2H), 6.74 (s, 1H), 6.78-6.81 (m, 3H), 7.20 (t, 1H), 7.36 (d, 1H), 7.46 (d, 1H), 7.59 (t, 1H), 7.80 (d, 1H), 8.06 (s, 1H), 8.40 (s, 1H), 8.61 (s, 1H), 10.85 (br s, 1H); Mass spectrum MH+ 497.

reactant | (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide | 0.84 mmol, 220 mg | CN(C([C@@H](C)OC1=C2C(NC=NC2=CC=C1)=O)=O)C | C13H15N3O3
reactant | 1-(3-methoxybenzyl)-1H-indazol-5-amine | 1.1 equivalents | COC=1C=C(CN2N=CC3=CC(=CC=C23)N)C=CC1 | C15H15N3O
product | (2R)-2-[(4-{[1-(3-methoxybenzyl)-1H-indazol-5-yl]amino}quinazolin-5-yl)oxy]-N,N-dimethylpropanamide | 242 mg, 58% | COC=1C=C(CN2N=CC3=CC(=CC=C23)NC2=NC=NC3=CC=CC(=C23)O[C@@H](C(=O)N(C)C)C)C=CC1 | C28H28N6O3
